* Transistor Definitions
M1 OUT VIN 0 0 NMOS W=xx L=xx
M2 OUT 2 VDD VDD PMOS W=xx L=xx

* Voltage Sources
VIN VIN 0 DC <Voltage_Value>
VDD VDD 0 DC <Voltage_Value>

* Node Definitions
.OUT
.0 GND

.END