* Transistor Definitions
M1 OUT VIN 0 0 NMOS
M2 OUT 2 VDD VDD PMOS

* Voltage Sources
VIN VIN 0 DC <Voltage_Value>
VDD VDD 0 DC <Voltage_Value>

* Node Definitions
.OUT
.0 GND

.END